US03944570
To a flask equipped with a stirrer, dropping funnel, condenser and gas inlet tube maintained under a nitrogen atmosphere there is added at room temperature 19.7 g (0.146 mole) of N-methyl benzamide and 400 ml. dry tetrahydrofuran. The reaction flask is immersed in an ice bath and cooled to an internal temperature of 5°C. Stirring is initiated and 204 ml. of 1.6 M. n-butyl lithium (~0.321 mole) in hexane is added dropwise over about 1 hour maintaining the temperature below 8°C. The resulting dilithio salt is stirred at 5°C. for an additional hour and then a solution of 40 g. (0.146 mole) of 4'-chloro-2-dimethylaminomethyl benzophenone in 500 ml. tetrahydrofuran is added dropwise over about 1 hour maintaining the temperature between -10 to 10°C. The resulting mixture is stirred at 5°C. for 1 hour longer and 150 ml. of saturated ammonium chloride is added maintaining the temperature at about 10°C. The layers are separated and the organic phase dried over ahydrous magnesium sulfate, filtered and evaporated in vacuo. The residue is crystallized from ether to give α-(4-chlorophenyl)-α-(2-dimethylaminomethyl phenyl)-α-hydroxy-N-methyl-o-toluamide; m.p. 154°-156°C.

reactant | N-methyl benzamide | 0.146 mole, 19.7 g | CNC(C1=CC=CC=C1)=O | C8H9NO
reactant | n-butyl lithium | ~0.321 mole | C(CCC)[Li]
reactant | 4'-chloro-2-dimethylaminomethyl benzophenone | 0.146 mole | ClC1=CC=C(C=C1)C(C1=C(C=CC=C1)CN(C)C)=O | C16H16ClNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(4-chlorophenyl)-α-(2-dimethylaminomethyl phenyl)-α-hydroxy-N-methyl-o-toluamide | ClC1=CC=C(C=C1)C(C=1C(=CC=CC1)C(=O)NC)(O)C1=C(C=CC=C1)CN(C)C | C24H25ClN2O2
